US05256675
A mixture of 2-acetylamino-5-(2-pyridylthio)thiazole (5.0 g) in a mixture of acetic acid (50 ml) and aqueous 6N-hydrochloric acid (10 ml) was refluxed for 2 hours with stirring. The reaction mixture was concentrated under reduced pressure and the residue was dissolved in water. The solution was adjusted to pH 8.5 using aqueous sodium bicarbonate, and then the mixture was extracted with ethyl acetate. The organic layer was washed with water and dried over magnesium sulfate. The solvent was concentrated under reduced pressure and the residue was triturated with a solution of hydrochloric acid in ethanol. The precipitates were collected by filtration, washed with isopropyl ether and dried in vacuo to give 2-amino-5-(2-pyridylthio)thiazole dihydrochloride (4.60 g, yield: 85.8%). mp: 220°-225° C. (dec.) IR (Nujol ): 2550-2300, 1620, 1595 cm-1

reactant | 2-acetylamino-5-(2-pyridylthio)thiazole | 5.0 g | C(C)(=O)NC=1SC(=CN1)SC1=NC=CC=C1 | C10H9N3OS2
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 2-amino-5-(2-pyridylthio)thiazole dihydrochloride | 4.60 g, yield: 85.8% | Cl.Cl.NC=1SC(=CN1)SC1=NC=CC=C1 | InChI=1S/C8H7N3S2.2ClH/c9-8-11-5-7(13-8)12-6-3-1-2-4-10-6;;/h1-5H,(H2,9,11);2*1H
